US07652049B2
To a −78° C. solution of 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,3-thiazole (106.4 mg, 0.465 mmol) in THF (5 mL) was added dropwise a solution of n-BuLi (465 μL of a 1.6M solution in hexanes, 0.744 mmol). The reaction was stirred at −78° C. for 30 minutes, and then a solution of iodine (295 mg, 1.16 mmol) in THF (5 mL) was added by cannula. The reaction was warmed to room temperature for 15 minutes and then quenched by pouring into aq. NaHSO3 (20 mL). The mixture was extracted with EtOAc (60 mL) and the organic layer was washed with brine, saturated NaHCO3, and brine (20 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography (15% EtOAc/hexanes) afforded 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-iodo-1,3-thiazole. Rf=0.55 (15% EtOAc/hexanes). LCMS=356.0 (M+1)+. 1H NMR (CDCl3, 600 MHz) δ 7.16 (s, 1H), 4.86 (s, 2H), 0.93 (s, 9H), 0.10 (s, 6H).

reactant | 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,3-thiazole | 0.465 mmol, 106.4 mg | [Si](C)(C)(C(C)(C)C)OCC=1N=CSC1 | C10H19NOSSi
reactant | n-BuLi | [Li]CCCC
reactant | iodine | 1.16 mmol, 295 mg | II | I2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-iodo-1,3-thiazole | [Si](C)(C)(C(C)(C)C)OCC=1N=C(SC1)I | C10H18INOSSi
